US06380230B1
A) Benzyl 2-indolecarboxylate
10.32 g of 2-indolecarboxylic acid in 70 ml of THF are placed in a three-necked flask at RT, 10.38 g of carbonyldiimidazole are added and, after the evolution of gas has ceased, 7.62 g of benzyl alcohol are then added. After refluxing for 5 hours, the mixture is poured into water and extracted with DCM, and the extracts are dried and evaporated. The crystals formed are washed with iPrOH to give 13.62 g of the expected compound: m.p.=136° C.

reactant | 2-indolecarboxylic acid | 10.32 g | N1C(=CC2=CC=CC=C12)C(=O)O | C9H7NO2
reactant | carbonyldiimidazole | 10.38 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | benzyl alcohol | 7.62 g | C(C1=CC=CC=C1)O | C7H8O
reactant | water | O | H2O
solvent | THF | 70 ml | C1CCOC1 | C4H8O
product | Benzyl 2-indolecarboxylate | 13.62 g | N1C(=CC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C16H13NO2
